US07652055B2
(3,4-Dichloro-benzyl)-(4,5-dihydro-1H-imidazol-2-yl)-amine hydroiodide
To a solution of 3,4-dichlorobenzylamine (0.352 g, 2.0 mmol) in methanol (5 ml) was added 2-methylthio-2-imidazoline hydroiodide (0.488 g, 2.0 mmol) and the mixture was heated to reflux for 4 h. The solvent was partly removed by evaporation (to approx. 1 ml) and ether (5 ml) was added. After stirring for 15 min the precipitating white solid was removed by filtration and washed with ether. It was obtained 130 mg (18%) of a white solid; MS (ISP): 244.1; 246.0 ([M+H]+.).

reactant | 3,4-dichlorobenzylamine | 2.0 mmol, 0.352 g | ClC=1C=C(CN)C=CC1Cl | C7H7Cl2N
reactant | 2-methylthio-2-imidazoline hydroiodide | 2.0 mmol, 0.488 g | I.CSC=1NCCN1
solvent | methanol | 5 ml | CO | CH4O
product | (3,4-Dichloro-benzyl)-(4,5-dihydro-1H-imidazol-2-yl)-amine hydroiodide | 130 mg, 18% | I.ClC=1C=C(CNC=2NCCN2)C=CC1Cl | InChI=1S/C10H11Cl2N3.HI/c11-8-2-1-7(5-9(8)12)6-15-10-13-3-4-14-10;/h1-2,5H,3-4,6H2,(H2,13,14,15);1H
